US06706723B2
A mixture of 2-[4-(4-Methoxy-phenoxy)-phenyl]-[1,3,4]oxadiazole (1.1 g, 4.1 mmol), methionine (0.94 g, 4.9 mmol) and methanesulfonic acid (20.5 mL) was heated to 50° C. for 1.5 hours. The mixture was poured into ice cold 5M sodium hydroxide solution (60 mL), diluted with sodium bicarbonate solution (saturated aqueous), and was extracted three times into ethyl acetate. The combined organic phases were dried over sodium sulfate (Na2SO4), filtered and concentrated in vacuo, affording 4-(4-[1,3,4]oxadiazol-2-yl-phenoxy)-phenol as a colorless solid (0.91 g).

reactant | 2-[4-(4-Methoxy-phenoxy)-phenyl]-[1,3,4]oxadiazole | 4.1 mmol, 1.1 g | COC1=CC=C(OC2=CC=C(C=C2)C=2OC=NN2)C=C1 | C15H12N2O3
reactant | methionine | 4.9 mmol, 0.94 g | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | methanesulfonic acid | 20.5 mL | CS(=O)(=O)O | CH4O3S
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 4-(4-[1,3,4]oxadiazol-2-yl-phenoxy)-phenol | 0.91 g | O1C(=NN=C1)C1=CC=C(OC2=CC=C(C=C2)O)C=C1 | C14H10N2O3
